US04186135
160 ml of acetic acid, 160 ml of acetic anhydride and 100 g of 1,4-benzodioxane-5-carboxylic acid were introduced into a balloon flask provided with an agitator and a thermometer. The mixture was heated and a solution of 40 ml of nitric acid in 40 ml of acetic acid was added. The mixture was agitated at 40°-45° C. and then cooled. The crystals were dried off, washed and dried. 34 g of 7-nitro-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 246° C.; yield: 27%).

reactant | acetic anhydride | 160 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,4-benzodioxane-5-carboxylic acid | 100 g | O1CCOC2=C1C=CC=C2C(=O)O | C9H8O4
reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
product | 7-nitro-1,4-benzodioxane-5-carboxylic acid | 34 g, yield: 27% | [N+](=O)([O-])C=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7NO6
